US08404679B2
N-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-(1-ethanesulfonyl-piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
To a solution of N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide (50 mg, 0.90 mmol) in acetone (0.5 mL) was added potassium carbonate (finely milled) (19 mg, 0.13 mmol), ethanesulfonyl chloride (13 μL, 0.13 mmol) and acetone (0.5 mL). The suspension was stirred for 18 h at ambient temperature. It was diluted with ethyl acetatec (10 mL) and washed with an aqueous solution of Na2CO3 (1 M, 10 mL) and brine (10 mL). The aqueous layers were extracted with ethyl acetate (10 mL) and the combined organic layers were dried over sodium sulfate. Purification by chromatography (SiO2, heptane:ethyl acetate=30:70 to 0:100) afforded the title compound (44 mg, 76%) as an off-white foam. MS m/e: 650.2 [M]+.

reactant | N-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 0.90 mmol, 50 mg | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H28Cl2F3N3O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanesulfonyl chloride | 0.13 mmol, 13 μL | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
product | N-[(3RS,4SR)-4-(3,4-Dichloro-phenyl)-1-(1-ethanesulfonyl-piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | 44 mg, 76% | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)S(=O)(=O)CC)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C28H32Cl2F3N3O5S
